US06541463B1
3-Methylthiomethyloxy-1,3,5(10)-estratrien-17-one (EM-1066)
To a solution of estrone (2.0 g, 7.39 mmol) in anhydrous DMF under Ar (g), was added NaH (60% in oil, 0.26g, 11.0 mmol). After the evolution of hydrogen had ceased, the solution was cooled in an ice bath for the addition of CH3SCH2Cl (3.56 g, 36.9 mmol, 3.08 mL) and DMAP (0.09 g, 7.0 mmol). The solution was stirred in a cold room (4° C.) for 16 hours. The reaction was stopped with cold water, extracted with ethyl acetate, wash with water and brine, dry over MgSO4, filtered and concentrated under reduce pressure. The crude extract was purified by flash chromatography on silica gel column and eluted with EtOAc:hexanes (1:9), to give EM-1066 (0.7 g, 30%) as a white solide; Rf 0.5 (3:7 EtOAc/Hexanes); M.p.65° C.; [α]D26 +116.40 (c 1.06, CHCl3); IR (ν) 2919, 2864, 1735, 1604, 1577, 1497, 1448, 1375, 1282, 1255, 1211, 1151, 1051, 989, 885, 823, 787, 739,640-690, 579 cm−1; 1H NMR δ 2.24 (3H, s, CH3—S), 5.12 (2H, s, S—CH2—O), 7.21 (1H, d, J=2.8 Hz, 1′-CH), 6.76 (2H, dd, j1=2.8 Hz and J2=8.6 Hz, 2′-CH), 6.70 (1H, d, J=8.0 Hz, 4′-CH).

reactant | estrone | 7.39 mmol, 2.0 g | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CCC2=O)O | C18H22O2
reactant | NaH | 11.0 mmol, 0.26g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | CH3SCH2Cl | 36.9 mmol, 3.08 mL, 3.56 g | CSCCl | C2H5ClS
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | DMAP | 7.0 mmol, 0.09 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 3-Methylthiomethyloxy-1,3,5(10)-estratrien-17-one | CSCOC1=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O | C20H26O2S
